US08476302B2
A solution of methyl 2-(((benzyloxy)carbonyl)amino)acetimidate (600 mg, 2.7 mmol) and 4-(benzyloxy)benzohydrazide (654 mg, 2.7 mmol) in methanol (45 mL) was heated at 80° C. in a sealed tube for 3 h. The solvent was removed under reduced pressure and the resulting residue was purified by chromatography (silica gel, heptane-ethyl acetate) to yield benzyl ((5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methyl)carbamate. A solution of benzyl ((5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methyl)carbamate (480 mg, 1.12 mmol) in 33% HBr in acetic acid (5 mL) was stirred for 1 h. Diethyl ether was added, and the supernatant was decanted. The process was repeated, and the resulting solid was collected by filtration to yield (5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methanamine. A solution of (5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methanamine (155 mg, 0.43 mmol), 7-(3-fluorophenoxy)-2-hydroxyheptanoic acid (110 mg, 0.43 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (99 mg, 0.52 mmol), DIPEA (0.224 mL, 1.3 mmol) and HOBt (70 mg, 0.52 mmol) in DMF (20 mL) was stirred overnight. The resulting mixture was diluted with NaHCO3 (saturated, aqueous) and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4) and concentrated to yield N-((5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methyl)-7-(3-fluorophenoxy)-2-hydroxyheptanamide, which was in the next step used without further purification. To a solution of N-((5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methyl)-7-(3-fluorophenoxy)-2-hydroxyheptanamide (190 mg, 0.37 mmol) in methylene chloride (5 mL) was added 1,1,1-tris(acetyloxy)1,1-dihydro-1,2-benziodoxol-3-(1H)-one (233 mg, 0.55 mmol) and the resulting mixture was stirred overnight, then quenched with excess sodium thiosulfate in saturated aqueous sodium bicarbonate. The mixture was then extracted twice with ethyl acetate and the combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography (silica gel, heptane-ethyl acetate) to yield the title compound. 1H NMR (400 MHz, CDCl3) δ 6.60-8.10 (overlapping m, 14H), 5.15 (s, 2H), 4.75-4.85 (m, 2H), 3.85-4.00 (m, 2H), 2.90-3.10 (m, 2H), 1.50-1.90 (m, 6H).

reactant | (5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methanamine | 0.43 mmol, 155 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN=C(O1)CN | C16H15N3O2
reactant | 7-(3-fluorophenoxy)-2-hydroxyheptanoic acid | 0.43 mmol, 110 mg | FC=1C=C(OCCCCCC(C(=O)O)O)C=CC1 | C13H17FO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.52 mmol, 99 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | DIPEA | 1.3 mmol, 0.224 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.52 mmol, 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-((5-(4-(benzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)methyl)-7-(3-fluorophenoxy)-2-hydroxyheptanamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN=C(O1)CNC(C(CCCCCOC1=CC(=CC=C1)F)O)=O | C29H30FN3O5
